US08105662B2
a) 2-(4-bromophenoxy)propyl 2-methylacrylate
Following the same preparation procedure of Example 2, the reaction was carried out with 4-hydroxy bromophenol (4 g), 2-hydroxypropyl 2-methylacrylate (3.33 g), triphenyl phosphine (6.06 g) and DIAD (4.69 g) in 50 ml of THF to give after chromatography purification pure 2-(4-bromophenoxy)propyl 2-methylacrylate as pale yellow oil.

reactant | 4-hydroxy bromophenol | 4 g | OC1=CC(=C(C=C1)O)Br | C6H5BrO2
reactant | 2-hydroxypropyl 2-methylacrylate | 3.33 g | CC(C(=O)OCC(C)O)=C | C7H12O3
reactant | triphenyl phosphine | 6.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.69 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-(4-bromophenoxy)propyl 2-methylacrylate | CC(C(=O)OCC(C)OC1=CC=C(C=C1)Br)=C | C13H15BrO3
